US08053167B2
Synthesis of dipentaerythritol pentakis(3-mercaptobutyrate) (DP5MB)
A 500 ml three-necked flask was charged with 19.1 g (75 mmol) of dipentaerythritol (manufactured by TOKYO CHEMICAL INDUSTRY CO., LTD.), 54.1 g (450.0 mmol) of 3-mercaptobutanoic acid (manufactured by YODO KAGAKU CO., LTD.), 1.7 g (9.0 mmol) of p-toluenesulfonic acid monohydrate (manufactured by JUNSEI CHEMICAL CO., LTD.) and 300 g of toluene (manufactured by JUNSEI CHEMICAL CO., LTD.). A Dean-Stark apparatus and a condenser tube were attached. The materials were heated in an oil bath at 130° C. with stirring. After 1.5 hours after the reaction was initiated, 0.85 g (4.5 mmol) of p-toluenesulfonic acid monohydrate was added. Further, 1.7 g (9.0 mmol) of p-toluenesulfonic acid monohydrate was added after 4 hours from the initiation of the reaction. The reaction was carried out for another 2 hours. The reaction liquid was allowed to cool, was neutralized with 300 ml of a saturated aqueous sodium hydrogen carbonate solution, and was washed twice with 250 ml of pure water. The reaction liquid was then dehydrated and dried over anhydrous magnesium sulfate (manufactured by JUNSEI CHEMICAL CO., LTD.) and was distilled to remove the toluene, thereby giving a mixture containing the target compound. DP5MB obtained was a colorless transparent liquid and weighed 4.5 g, providing 13% yield. The composition formula of DP5MB was C30H52O12S5 and the molecular weight was 765.06.

reactant | dipentaerythritol | 75 mmol, 19.1 g | OCC(CO)(COCC(CO)(CO)CO)CO | C10H22O7
reactant | 3-mercaptobutanoic acid | 450.0 mmol, 54.1 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 9.0 mmol, 1.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 4.5 mmol, 0.85 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 9.0 mmol, 1.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | 300 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 300 g | C1(=CC=CC=C1)C | C7H8
product | dipentaerythritol pentakis(3-mercaptobutyrate) | 13% yield | SC(CC(=O)OCC(COC(CC(C)S)=O)(COCC(COC(CC(C)S)=O)(COC(CC(C)S)=O)COC(CC(C)S)=O)CO)C | C30H52O12S5
